US05270310
2-Methyl-1-[3-(N-hexadecanoyl)aminopropyl]piperidine hydrochloride (11, hydrochloride salt)
To a solution of 2-methyl-1-[3-(N-hexadecanoyl)aminopropyl]piperidine (0.47 g, 1.2 mmole) in diethyl ether was added an ethereal solution of hydrogen chloride. The reaction mixture was placed in the refrigerator overnight. The precipitate was filtered. The gummy paste was dissolved in methanol and the solvent removed under reduced pressure to give the title compound (0.37 g, 71%) as a pale paste. 1H NMR (300 MHz, CDCl3): mixture of rotamers, major peaks given. δ0.870 (H, t, J=6.7 Hz), 1.243 (24H, bs), 1.533 (3H, d, J=6.4 Hz), 1.59 to 1.66 (2H, m), 1.81 to 1.88 (2H, m), 2.06 to 2.70 (8H, m), 2.74 to 3.10 (2H, m), 3.12 to 3.70 (3H, m), and 7.264 (1H, bs). IR (neat): 2686, 1941, 1649, 1549, 1468, 1379, 1230, and 1123 cm-1. Analysis calculated for C25H51CIN2O.3/4H2O: C, 67.53; H, 11.90; N, 6.30; Cl, 7.97. Found: C, 67.55; H, 11.85; N, 6.29; Cl, 8.04.

reactant | 2-methyl-1-[3-(N-hexadecanoyl)aminopropyl]piperidine | 1.2 mmole, 0.47 g | CC1N(CCCC1)CCCNC(CCCCCCCCCCCCCCC)=O | C25H50N2O
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-Methyl-1-[3-(N-hexadecanoyl)aminopropyl]piperidine hydrochloride | 0.37 g, 71% | Cl.CC1N(CCCC1)CCCNC(CCCCCCCCCCCCCCC)=O | InChI=1S/C25H50N2O.ClH/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-20-25(28)26-21-18-23-27-22-17-16-19-24(27)2;/h24H,3-23H2,1-2H3,(H,26,28);1H
